US04625047
To a stirred solution of [2,3-dichloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid (2.06 g, 0.006 mole) under nitrogen in tetrahydrofuran (THF) (50 ml) was added 1,1'-carbonyldiimidazole (0.97 g, 0.006 mole). The solution was stirred for 1 hour then 2-hydroxy-2-methylpropanoic acid (0.62 g, 0.006 mole) in THF (25 ml) was added and stirring was continued overnight. The THF was evaporated in vacuo and the residue chromatographed on silica (300 g) eluting with CH2Cl2 -THF-AcOH (100:2:1). Evaporation of the pertinent fractions gave 1-carboxy-1-methylethyl [2,3-dichloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetate which melted at 167°-168° C.

reactant | [2,3-dichloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetic acid | 0.006 mole, 2.06 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C1=CC(CCC1CC)=O | C16H16Cl2O4
reactant | 1,1'-carbonyldiimidazole | 0.006 mole, 0.97 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-hydroxy-2-methylpropanoic acid | 0.006 mole, 0.62 g | OC(C(=O)O)(C)C | C4H8O3
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | THF | 25 ml | O1CCCC1 | C4H8O
product | 1-carboxy-1-methylethyl [2,3-dichloro-4-(6-ethyl-3-oxo-1-cyclohexen-1-yl)phenoxy]acetate | ClC1=C(OCC(=O)OC(C)(C)C(=O)O)C=CC(=C1Cl)C1=CC(CCC1CC)=O | C20H22Cl2O6
